US07491713B2
Step A: Methyl N-(tert-butoxycarbonyl)-S-(2-nitro-1-phenylethyl)-D-cysteinate
Diisopropylethylamine (3.38 mL, 19.4 mmol) was added to a solution of methyl N-(tert-butoxycarbonyl)-D-cysteinate (3.04 g, 12.9 mmol) and □-trans-nitrostyrene (1.93 g, 12.92 mmol) in acetonitrile (80 mL). After 15 min, the reaction was concentrated. Purification by silica gel chromatography (100% hexanes→30% ethyl acetate/hexanes) gave the title compound (4.52 g).

reactant | Diisopropylethylamine | 19.4 mmol, 3.38 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl N-(tert-butoxycarbonyl)-D-cysteinate | 12.9 mmol, 3.04 g | C(C)(C)(C)OC(=O)N[C@H](CS)C(=O)OC | C9H17NO4S
reactant | trans-nitrostyrene | 12.92 mmol, 1.93 g | [N+](=O)([O-])\C=C\C1=CC=CC=C1 | C8H7NO2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | Methyl N-(tert-butoxycarbonyl)-S-(2-nitro-1-phenylethyl)-D-cysteinate | 4.52 g | C(C)(C)(C)OC(=O)N[C@H](CSC(C[N+](=O)[O-])C1=CC=CC=C1)C(=O)OC | C17H24N2O6S
